Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"The police are Satan."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w chronic paranoid schizophrenia poorly controlled
in the setting of non-adherance brought in by EMS for 
psychiatric
evaluation after found in streets yelling and calling people
Satan including the police who called EMS.  In the ED, the
patient was initially agitated and required phsyical restraints,
Haldol 5mg x2 and Ativan 2mg x2. The patient reports that he
thinks that the police "are Satan" and that they are "trying to
get rid of black males."  He believes that he is a target to the
police because they are after black males to "kill them and get
them to jail."  He reports that another reason he was yelling at
the police is because he was professing "something biblical" but
refuses to educate this clinician on his teachings.  He states
that although he does not believe that he has psychiatric 
illness
he is amenable to psychiatric inpatient treatment. When asked
about thought withdrawal, he reports that people are probably
withdrawing his thoughts but he is not sure.  He denies SI, HI. 
Denies AVH.  Denies that people other than the police are trying
to harm him.  Endorses mood is "good" but not better than usual. 

States he has not slept for 3 days because he has not needed to
sleep.  States he tries to find other people who are awake.  He
reports energy is good.  Appetite is okay.  Denies rapid speech
or thoughts.  Denies high risk behavior or thoughtlessness but
little insight into the reason behind his yelling at police.  

Denies trauma, LOC, TBI, pain.  All systems reviewed and
negative.

 
Past Medical History:
___: patient denies psychiatric admission but admits recent 
___
admission where he presented for "feeling unsafe"
Previous diagnoses: Schizophrenia, paranoid type, chronic
Past psychiatric hospitalizations: hospitalization at ___ (___), ___ (___)  
-he has been on Risperdal Consta and haldol decanoate in the 
past
-denies having a guardian
History of suicide attempts, self-injurious behavior, or
assaultive behavior: Denies
Current outpatient therapist: None currently
Current outpatient prescriber: None currently
 
Past Medical History:  Patient denies but per medical record
-Reported Hypertension
-h/o Rhabdomyolysis 
-Reported Tardive dyskinesia

 
Social History:
SUBSTANCE ABUSE HISTORY:
Alcohol: Denies recent or current use
Tobacco: Denies recent or current use
Illicit or other drug use: Denies recent or current use; denies
IVDU
 
Social History: ___
Family History:
History of suicidality or suicide attempts: Denies
History of diagnosed psychiatric/substance abuse disorders:
Denies 
History of inpatient psychiatric hospitalizations: Denies

 
Physical Exam:
*VS:  Patient refused vitals, saying it was against his 
religion.

Physical Exam:
  General: Well-nourished, in no distress.
  HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
  Neck: Supple, trachea midline.  No adenopathy.
  Lungs: Clear to auscultation; no crackles or wheezes.
  CV: Regular rate and rhythm; no murmurs/rubs/gallops.
  Abdomen: Soft, nontender, nondistended.
  Extremities: No clubbing, cyanosis, or edema.
  Skin: Warm and dry, no rash or significant lesions.
  Neurological:
    *Cranial Nerves-
        I: Not tested
        II: PERRL b/l
        III, IV, VI: EOMI b/l, no nystagmus
        V, VII: Facial strength and sensation intact & 
symmetric.
        VIII: Hearing intact to voice.
        IX, X: Palatal elevation symmetrical.
        XI: Sternocleidomastoid and trapezius normal 
bilaterally.
        XII: Tongue midline without fasciculations.
    *Motor- ___ strength throughout, no tremor
    *Sensation- Intact to light touch b/l
    *Coordination- Normal on finger-nose-finger

Mental Status Exam:
  *Appearance: ___ male appearing younger than
stated age, sitting in chair wearing hospital gowns with blanket
wrapped around shoulders.
  Behavior: almost no eye contact, no abnormal movement
  *Mood and Affect: "I don't know what my mood is" and very
blunted affect
  *Thought process & content: short replies, poverty of content,
expressed paranoid delusions. No SI, no HI.
  *Judgment and Insight: poor, poor
  Cognition:
    *Attention: MOYB
    *orientation: full to place, date, time
    *Memory: ___ registration, ___ short-term, ___ with hints 
    Calculations: $2.50=10 quarters
    *Speech: poverty of speech, limited prosody, normal volume
and rate

 
Pertinent Results:
___ 06:00PM   GLUCOSE-85 UREA N-13 CREAT-1.1 SODIUM-144 
POTASSIUM-3.1* CHLORIDE-109* TOTAL CO2-25 ANION GAP-13
___ 06:00PM   estGFR-Using this
___ 06:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:00PM   WBC-7.5 RBC-4.34* HGB-13.0* HCT-38.5* MCV-89 
MCH-30.0 MCHC-33.8 RDW-13.5
___ 06:00PM   NEUTS-78.6* LYMPHS-17.2* MONOS-3.2 EOS-0.5 
BASOS-0.5
___ 06:00PM   PLT COUNT-___. Schizophrenia: On admission, the patient demonstrated 
paranoid delusions about the ___ police, consistent with his 
known diagnosis of paranoid schizophrenia. The patient was 
initially given Risperdal 1 mg BID and Risperdal Consta 25 mg 
IM, given his history of medication non-compliance leading to 
repeated admissions.  Risperdal PO was uptitrated to 3 mg BID, 
which had been his previous dose.    Risperdal PO can be 
discontinued as an outpatient on or about ___.  Patient will 
need his next Risperdal Consta injection on ___, then 
___.  He will follow up with ___ ___ ___ fl for his 
biweekly injections. He reports passing by ___ en route to ___. 
___ or ___ where he gets his meals, so 
adherence to this treatment plan will hopefully be better than 
previously.  He reports difficulty with sleep, including 
insomnia and early morning awakenings, so it was recommended he 
take his remaining Risperdal PO medication at night.  If/when he 
feels he is sleeping better, he is aware he can take it BID (or 
continue QHS). He reports mild, tolerable, intermittent 
akathesia but no tremors or TD symptoms.  He continues to have 
his long-standing paranoid delusions about being targeted by 
police and robbers.  However, he is no longer agitated and is 
engageable and interactive with staff.  Pt has never attempted 
to harm himself, and continues to deny any SI.  His acute risk 
of self-harm is low.

2. Sleep: The patient reports sleep difficulties, including late 
night insomnia and early morning awakenings. Sometimes he 
reports staying awake for 2 or even 3 days until he crashes and 
falls asleep. It was recommended that he take his remaining 
Risperdal PO medication at night. A prescription for Benadryl 
was also given, both for anxiety and for insomnia. 

#) Medical: There were no active issues.  He has a reported 
history of hypertension but refused vital signs throughout his 
stay.

#) Safety: He was maintained on Q15 minute safety checks without 
incident.    

#) Legal: ___
Medications on Admission:
None
 
Discharge Medications:
1. diphenhydramine HCl 50 mg Tablet Sig: One (1) Tablet PO BID 
prn as needed for anxiety, agitation, insomnia.
Disp:*90 Tablet(s)* Refills:*0*
2. risperidone 3 mg Tablet Sig: Two (2) Tablet PO at bedtime.
Disp:*60 Tablet(s)* Refills:*2*
3. Risperdal Consta 25 mg/2 mL Syringe Sig: One (1)  
Intramuscular Every other week.
Disp:*1 Syringe* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia, paranoid type

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
O: Vital signs refused.

Appearance: ___ male appearing slightly younger 
than
stated age. Dressed in hospital gown, scrub pants, and sneakers.
Facial hair neatly trimmed but not clean-shaven. Clean and
well-groomed.  
Behavior: Walks w/ back hunched. Makes good eye contact with
interviewer. More reticent and reserved towards unfamiliar 
staff.
Mood: 'Can't complain.'
Affect: Full range, including laughing and joking during group
meeting. However, does not demonstrate full range with 
unfamiliar
staff, and sometimes smiled and laughed inappropriately.
Speech: Normal rate, tone, and prosody. No spontaneous speech
with new staff--responds to questions with very short phrases.
With known staff, +spontaneous speech, slightly increased
prosody.
Thought process: Linear and goal-directed, but concrete.
Thought content: Paranoid delusions of being targeted by police
and robbers. Preoccupation with religion. No SI/HI, and no
evident AH/VH.
Insight/Judgment: Poor insight and judgment. No recognition of
connection between not taking medications and repeated
hospitalizations, or between running out of medication and the
need for outpatient follow-up. Also limited by delusions.
Cognitive: A+Ox3. # quarters in $1.75. Months of year and days 
of
week backwards. Refused serial 3's. Registered ___ items but
could recall ___ after 5 minutes, even with hints. Similarity
between apples and oranges = 'both fruit', difference between
apples and oranges = 'I don't know'. Adequate interpretation of
proverbs. 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge your nearest paperwork to your appointments.
-Please continue all medications as directed.  You will need to 
get a shot of your medication every two weeks.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to emergency room if you feel unsafe in 
any way and are unable to immediately reach your health care 
providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___